US05939557
Step B: 4-Thien-3-yl-benzyl alcohol
To a solution of methyl (4-thien-3-yl)benzoate (552 g, 1.60 mmol) in THF (5 mL) at 0° C. was added 1.0 M lithium aluminum hydride in diethyl ether (1.60 mL, 1.60 mmol) over 10 minutes. The reaction was allowed to stir at ambient temperature for 3 hours, cooled to 0° C., and quenched by dropwise addition of water (0.10 mL), 4 N aq. NaOH (0.10 mL), and water (0.30 mL). The reaction was filtered through a pad of Celite and the filtrate evaporated in vacuo. The title compound was obtained as an oil and was used without furthur purification.

reactant | methyl (4-thien-3-yl)benzoate | 1.60 mmol, 552 g | S1C=C(C=C1)C1=CC=C(C(=O)OC)C=C1 | C12H10O2S
reactant | lithium aluminum hydride | 1.0 M | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | diethyl ether | 1.60 mmol, 1.60 mL | C(C)OCC | C4H10O
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | 4-Thien-3-yl-benzyl alcohol | S1C=C(C=C1)C1=CC=C(CO)C=C1 | C11H10OS
